US08258131B2
(1) Preparation of (4-chloro-2-methoxyphenyl)(4-fluorophenyl)methanone
Methyl iodide (1.10 mL) was added to a suspension of (4-chloro-2-hydroxyphenyl)(4-fluorophenyl)methanone (3.00 g) and potassium carbonate (3.30 g) in N,N-dimethylformamide (50 mL) and the mixture was stirred at room temperature for 2.5 hours. The reaction solution was filtered through Celite and the filtrate was poured into an aqueous saturated ammonium chloride solution. The mixture was extracted with ethyl acetate and the organic layer was washed successively with water and brine, dried over sodium sulfate and concentrated in vacuo. The resultant residue was purified by column chromatography on silica gel (Solvent: n-hexane/ethyl acetate=30/1) to give the titled compound (2.95 g) as a pale yellow powder.

reactant | Methyl iodide | 1.10 mL | CI | CH3I
reactant | (4-chloro-2-hydroxyphenyl)(4-fluorophenyl)methanone | 3.00 g | ClC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)O | C13H8ClFO2
reactant | potassium carbonate | 3.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (4-chloro-2-methoxyphenyl)(4-fluorophenyl)methanone | 2.95 g | ClC1=CC(=C(C=C1)C(=O)C1=CC=C(C=C1)F)OC | C14H10ClFO2
